US08859574B2
A mixture of 5-chloro-N2-(2-fluoro-5-methyl-4-(piperidin-4-yl)phenyl)-N4-(5-methyl-1H-pyrazol-3-yl)pyrimidine-2,4-diamine (43 mg, 0.1 mmol), cyclopentane-1,3-dione (89 mg, 9.1 mmol), sodium cyanoborohydride (19 mg, 0.3 mmol) and DIEA (0.2 mL, 11 mmol) in MeOH (1 mL) was stirred in a sealed vial at 60° C. After 2.5 h, additional sodium cyanoborohydride (19 mg, 0.3 mmol) was added and the reaction continued to stir at 60° C. overnight. The mixture was purified by RP-HPLC to give 3-(4-(4-(5-Chloro-4-(5-methyl-1H-pyrazol-3-ylamino)pyrimidin-2-ylamino)-5-fluoro-2-methylphenyl)piperidin-1-yl)cyclopent-2-en-one as an off white solid; 1H NMR (400 MHz, DMSO-d6) δ 9.97 (br s, 1H), 9.83 (br s, 1H), 8.90 (s, 1H), 8.32 (d, J=6.8 Hz, 1H), 7.88 (d, J=12.8 Hz, 1H), 6.97 (s, 1H), 6.04 (s, 1H), 5.30 (br s, 1H), 4.71 (d, J=12.0 Hz, 2H), 4.04 (t, J=12.4 Hz, 2H), 3.84 (m, 1H), 3.53 (m, 2H), 3.13 (m, 2H), 3.08 (s, 3H), 2.96 (s, 3H), 2.59-2.40 (m, 4H); ESMS m/z 496.2 (M+H+).

reactant | 5-chloro-N2-(2-fluoro-5-methyl-4-(piperidin-4-yl)phenyl)-N4-(5-methyl-1H-pyrazol-3-yl)pyrimidine-2,4-diamine | 0.1 mmol, 43 mg | ClC=1C(=NC(=NC1)NC1=C(C=C(C(=C1)C)C1CCNCC1)F)NC1=NNC(=C1)C | C20H23ClFN7
reactant | cyclopentane-1,3-dione | 9.1 mmol, 89 mg | C1(CC(CC1)=O)=O | C5H6O2
reactant | sodium cyanoborohydride | 0.3 mmol, 19 mg | C(#N)[BH3-].[Na+]
reactant | DIEA | 11 mmol, 0.2 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | sodium cyanoborohydride | 0.3 mmol, 19 mg | C(#N)[BH3-].[Na+]
solvent | MeOH | 1 mL | CO | CH4O
product | 3-(4-(4-(5-Chloro-4-(5-methyl-1H-pyrazol-3-ylamino)pyrimidin-2-ylamino)-5-fluoro-2-methylphenyl)piperidin-1-yl)cyclopent-2-en-one | ClC=1C(=NC(=NC1)NC1=CC(=C(C=C1F)C1CCN(CC1)C1=CC(CC1)=O)C)NC1=NNC(=C1)C | C25H27ClFN7O
